US07368578B2
A mixture of methoxymethylamine hydrochloride (0.85 g), triethylamine (1.3 mL) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 30 min. To the reaction mixture were added 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-methyl-1H-pyrazole-4-carboxylic acid (3.45 g), 1-hydroxy-1H-1,2,3-benzotriazole monohydrate (1.22 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.60 g), and the mixture was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give N-methoxy-N-methyl-3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-methyl-1H-pyrazole-4-carboxamide (3.63 g, yield 96%) as colorless crystals. The crystals were recrystallized from acetone-hexane. melting point: 138-139° C.

reactant | methoxymethylamine hydrochloride | 0.85 g | Cl.COCN
reactant | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-methyl-1H-pyrazole-4-carboxylic acid | 3.45 g | COC=1C=C(COC2=NN(C=C2C(=O)O)C)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H23N3O6
reactant | 1-hydroxy-1H-1,2,3-benzotriazole monohydrate | 1.22 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.60 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
product | N-methoxy-N-methyl-3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-methyl-1H-pyrazole-4-carboxamide | 3.63 g, yield 96% | CON(C(=O)C=1C(=NN(C1)C)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC)C | C26H28N4O6
